US04399141
To a stirred slurry of ethyltriphenylphosphonium bromide (21 g, 0.057 mole) in ether (400 ml) was added dropwise butyllithium in hexane (48 ml, 1.3 M). To the resulting solution was added a solution of 1-(5-keto-5H-dibenzo[a,d]cyclohepten-10-yl)-4-methylpiperazine (13.5 g, 0.044 mole) in THF (100 ml). The resulting mixture was stirred and heated under reflux for 3.5 hours, cooled and poured into ice H2O (300 ml). The organic phase was separated and the aqueous phase extracted with ether (2×150 ml). The combined organic solutions were concentrated under reduced pressure. The concentrate was stirred with a mixture of 1 N aqueous hydrochloric acid (300 ml) and ether (300 ml). The ether phase was separated, the aqueous phase extracted with ether, and the combined ether solutions dried over Na2SO4, filtered and the filtrate concentrated to 100 ml. Triphenylphosphine oxide was removed by filtration and the filtrate was chromatographed on silica-gel which was eluted with chloroform to yield 10.1 g (98%) of 5-ethylidene-10-oxo-10,11-dihydro-5H-dibenzo[a,d]cycloheptene, m.p. 93°-95° C.

reactant | butyllithium | C(CCC)[Li]
reactant | 1-(5-keto-5H-dibenzo[a,d]cyclohepten-10-yl)-4-methylpiperazine | 0.044 mole, 13.5 g | O=C1C2=C(C(=CC3=C1C=CC=C3)N3CCN(CC3)C)C=CC=C2 | C20H20N2O
catalyst | ethyltriphenylphosphonium bromide | 0.057 mole, 21 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | hexane | 1.3 M, 48 ml | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-ethylidene-10-oxo-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 10.1 g, 98% | C(C)=C1C2=C(C(CC3=C1C=CC=C3)=O)C=CC=C2 | C17H14O
